US08633173B2
N-Methyl-N-(3-{2-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino}-pyridin-2-yl)-methanesulfonamide was prepared from N-[3-(2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-pyridin-2-yl]-N-methyl-methanesulfonamide (75.0 mg, 0.212 mmol) and 4-(2-pyrrolidin-1-yl-ethoxy)-phenylamine (53.0 mg, 0.257 mmol) (prepared as described in J. Med. Chem., 2006, 49, 4451-4454) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (25.0 mg, 0.0457 mmol) as the ligand in a manner analogous to Example 2d. Product isolated as a brown foam (0.023 g, 21%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.09 (dd, J=4.6, 1.5 Hz, 1H), 8.05 (d, J=6.5 Hz, 1H), 7.78 (dd, J=8.1, 1.4 Hz, 1H), 7.55 (s, 1H), 7.50 (d, J=9.0 Hz, 2H), 7.28-7.23 (m, 1H), 7.13 (d, J=7.7 Hz, 1H), 6.93 (d, J=9.0 Hz, 2H), 6.74 (t, J=7.2 Hz, 1H), 6.69 (s, 1H), 4.11 (t, J=6.1 Hz, 2H), 3.33 (s, 3H), 3.10 (s, 3H), 2.09 (t, J=6.0 Hz, 2H), 2.67-2.57 (m, 4H), 1.87-1.77 (m, 4H). MS=523 (MH)+.

reactant | N-[3-(2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-pyridin-2-yl]-N-methyl-methanesulfonamide | 0.212 mmol, 75.0 mg | ClC1=NN2C(C(=CC=C2)NC=2C(=NC=CC2)N(S(=O)(=O)C)C)=N1 | C13H13ClN6O2S
reactant | 4-(2-pyrrolidin-1-yl-ethoxy)-phenylamine | 0.257 mmol, 53.0 mg | N1(CCCC1)CCOC1=CC=C(C=C1)N | C12H18N2O
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0457 mmol, 25.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | N-Methyl-N-(3-{2-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino}-pyridin-2-yl)-methanesulfonamide | CN(S(=O)(=O)C)C1=NC=CC=C1NC=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)OCCN2CCCC2 | C25H30N8O3S
